US07067517B2
Methyl-phenyl-carbamic acid 4-(2-cyano-ethyl)-phenyl ester
The title product was prepared from 3-(4-hydroxyphenyl)proprionitrile and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (11%, colourless oil). HPLC-MS: m/z=281.2 (M+1); Rt: 3.75 min, purity 80%.

reactant | 3-(4-hydroxyphenyl)proprionitrile | OC1=CC=C(C=C1)CCC#N | C9H9NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(2-cyano-ethyl)-phenyl ester | C(#N)CCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C17H16N2O2
